US06248765B1
3-(4-Fluorophenyl)propyl 3-(1H-imidazol-4-yl)-2-propenyl ether
5 mmol of sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)-2-propenolate and of 3-(4-fluorophenyl)propane chloride are treated as described in Example 5.

reactant | sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)-2-propenolate | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)C=CC[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | 3-(4-fluorophenyl)propane chloride | [Cl-].FC1=CC=C(C=C1)CCC
product | 3-(4-Fluorophenyl)propyl 3-(1H-imidazol-4-yl)-2-propenyl ether | N1C=NC(=C1)C=CCOCCCC1=CC=C(C=C1)F | C15H17FN2O
